US08106090B2
[(1R,2S)-1-Benzyl-2-hydroxy-3-indazol-1-yl-propyl]-carbamic acid tert-butyl ester
Using general procedure 4 and purification method E with [(1R)-1-{(2R)-oxiran-2-yl}-2-phenyl-ethyl]carbamic acid tert-butylester (0.25 g, 0.95 mmol) and indazole (0.56 g, 4.74 mmol) gives the title compound.

reactant | [(1R)-1-{(2R)-oxiran-2-yl}-2-phenyl-ethyl]carbamic acid tert-butylester | 0.95 mmol, 0.25 g | C(C)(C)(C)OC(N[C@H](CC1=CC=CC=C1)[C@H]1OC1)=O | C15H21NO3
reactant | indazole | 4.74 mmol, 0.56 g | N1N=CC2=CC=CC=C12 | C7H6N2
product | [(1R,2S)-1-Benzyl-2-hydroxy-3-indazol-1-yl-propyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H]([C@H](CN1N=CC2=CC=CC=C12)O)CC1=CC=CC=C1)=O | C22H27N3O3
